US07495104B2
Compound 44: [4-(6,7-Dimethoxyquinolin-4-yloxy)phenyl]-(4-morpholin-4-ylphenyl)amine
Palladium acetate (18 mg) and (+)-BINAP (70 mg) were dissolved in toluene (1.5 ml), and the solution was stirred at room temperature for 5 min. (4-Bromophenyl)-[4-(6,7-dimethoxy-4-quinolyloxy)phenyl]amine (100 mg), morpholine (0.15 ml), and cesium carbonate (200 mg) were added in that order to the reaction solution, and the mixture was stirred at 80° C. overnight. The insolubles were removed by filtration, and the solvent was then removed by evaporation under the reduced pressure. The residue was purified by thin-layer chromatography on silica gel using chloroform/acetone to give the title compound (10 mg, yield 9%).

reactant | (+)-BINAP | 70 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | (4-Bromophenyl)-[4-(6,7-dimethoxy-4-quinolyloxy)phenyl]amine | 100 mg | BrC1=CC=C(C=C1)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C23H19BrN2O3
reactant | morpholine | 0.15 ml | N1CCOCC1 | C4H9NO
reactant | cesium carbonate | 200 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 1.5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Palladium acetate | 18 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | [4-(6,7-Dimethoxyquinolin-4-yloxy)phenyl]-(4-morpholin-4-ylphenyl)amine | 10 mg, yield 9% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC1=CC=C(C=C1)N1CCOCC1 | C27H27N3O4
